Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
s/p fall ___ feet
 
Major Surgical or Invasive Procedure:
___:
1. Open reduction internal fixation distal radius fracture
    of percutaneous technique.
2. Open reduction internal fixation proximal ulnar
    fracture, comminuted with bone graft.
3. Closed treatment radial head fracture.

___: Inferior vena cava filter placement

___:  Embolization with Gelfoam slurry from the splenic 
artery branches

 
History of Present Illness:
___ with a history of ___ transferred from OSH s/p fall from 
15ft. Pt fell from scaffolding at work today, landing primarily 
on left elbow, side. Pt denies head strike or LOC. Pt was 
initially taken to ___ where CT showed evidence of 
active retroperitoneal extravasation associated with a left 
renal cyst rupture. Pt was transferred to ___ where he was 
hemodynamically stable on arrival. Repeat imaging revealed 
persistent extravasation and an enlarging perinephric hematoma. 
Additionally, imaging revealed a splenic contusion with 
pseudoaneurysm, fractures of the left radius and olecranon, 
pelvic fractures, and L2-L5 transverse process fractures. 
 
Past Medical History:
PMH: Cirrhosis, HCV, HTN

PSH: removal of right arm mass

 
Social History:
___
Family History:
FHx:  neg for blood clots, bleeding problems, anesthetic
complications

 
Physical Exam:
On arrival to ___:

P 90 BP 142/p R 11 SPO2 83% RA, GCS 15
GEN: A&O, NAD
HEENT: WNL
PULM: WNL
CV: RRR
ABD: WNL
EXTR:
- RUE:  Painless ROM of shoulder/elbow/wrist/fingers.  No
tenderness to palpation throughout.  SILT throughout, motor
intact.  BCR distally, 2+ radial pulse
- LUE:  Nontender in shoulder.  In splint.  BCR distally.  2+
radial pulse.  No open wounds, abrasion on elbow.  SILT in
ax/m/r/u distributions.  Motor intact AIN/IO/EPL.  
- LLE/RLE:  Nontender throughout, no abrasions, no swelling in
knee/ankle.  SILT throughuot.  Motor intact throughout.  BCR and
2+ DP pulses.

On discharge (___):
T 98.6 BP 142/74 P 83 R 16 O2 sat 98%RA
GEN: A&O, NAD
PULM: CTAB
CV: Normal S1S2, RRR
ABD: Soft, nontender, nondistended. No palpable masses. No 
rebound or guarding.
EXTR: LUE casted and splinted, 2+ radial pulses, +CSM. B/L ___ no 
edema, +PP.

 
Pertinent Results:
CT Head ___: No evidence of acute intracranial process.

CT C-spine ___: No acute fracture or malalignment.

CT Torso ___: 1. Ruptured left renal cyst with intracystic 
hemorrhage and signs of active bleeding. Small component of left 
perinephric retroperitoneal hematoma. 
2. Contusion of the lower pole of the spleen with 
probablepseudoaneurysm.  
No evidence of perisplenic hematoma. 
3. Acute fractures involving the left iliac wing, left superior 
and inferior pubic rami involving the anterior wall of the left 
acetabulum. Fractures of the left L2 and L5 lumbar transverse 
processes. Small associated intramuscular hematoma of the left 
obturator internus muscle. 
4. Incidental findings include cirrhotic liver, colonic 
diverticulosis 

CTA Torso ___: 1. Ruptured left renal cyst with intracystic 
and perinephric hematoma and active contrast extravasation. Left 
retroperitoneal hematoma increased since OSH CT obtained three 
hours prior. 
2. Contusion involving the lower pole of the spleen with splenic 

pseudoaneurysms. These findings may predispose to delayed 
splenic rupture. 
3. Acute fractures involving left iliac wing, left superior and 
inferior 
pubic rami and left L2 and L5 transverse processes. 
4. Stable appearance of small intramuscular hematoma of the left 
obturator 
internus muscle. 
5. No acute traumatic injury in the chest. 
6. Lobulated contour of the liver, compatible with underlying 
cirrhosis. 
7. Sigmoid colon diverticula without associated inflammatory 
changes. 

___ ECG:
Sinus rhythm bordering on sinus tachycardia. Low precordial QRS 
voltage

___ CTA Abd/pelvis:
1. Known splenic laceration with worsening heterogeneous 
apperance of the 
spleen and a small pseudoaneurysm/focus of active extravasation. 
Worsening 
perisplenic hematoma. Worsening perihepatic hematoma. ___ consult 
recommended. 
2. Stable left renal and perirenal hematoma/known rupture of the 
left renal cyst with hematoma layering within the cyst and 
retroperitoneal hematoma along the lower pole of the left 
kidney. No evidence of active extravasation about the kidney. 
3. Interval increase in small amount of dense fluid layering 
within the 
pelvis.  
4. Stable appearance of a small intramuscular hematoma of the 
left obturator internus muscle.  
5. Stable small left pleural effusion and adjacent atelectasis 
at the left 
lung base is seen.  
6. Known multiple fracture.  
7. IVC filter in place. 
  

___ ___ embolization:
1. Heterogeneous appearance of the lower portion of the spleen 
with a vague rounded abnormality which may correspond to the 
pseudoaneurysm finding on the CTA. 
2. After discussion between Dr. ___ Dr. ___ 
___ treatment options for the known bleeding from the 
spleen in the presence of difficult to demonstrate blush or 
pseudoaneurysm on the arteriogram, a decision was made to 
perform distal embolization the branches supplying the lower 
portion of the spleen. 
3. Embolization with Gelfoam slurry from the splenic artery 
branches 
supplying the lower portion of the spleen. 
4. Diagnostic arteriogram of the left renal artery did not 
demonstrate active extravasation or pseudoaneurysm. 

Labs on admission:
___ 07:30PM   GLUCOSE-114* UREA N-13 CREAT-0.8 SODIUM-137 
POTASSIUM-4.0 CHLORIDE-102 TOTAL CO2-27 ANION GAP-12
___ 07:30PM   WBC-11.4* RBC-4.72 HGB-14.9 HCT-42.8 MCV-91 
MCH-31.5 MCHC-34.7 RDW-13.5
___ 07:30PM   WBC-11.4* RBC-4.72 HGB-14.9 HCT-42.8 MCV-91 
MCH-31.5 MCHC-34.7 RDW-13.5
___ 07:30PM   ___ PTT-28.4 ___
___ 07:30PM   PLT COUNT-170
___ 07:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:30PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 07:30PM URINE  RBC-17* WBC-3 BACTERIA-FEW YEAST-NONE 
EPI-0
___ 07:30PM URINE  MUCOUS-RARE
___ 07:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 07:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG

Labs at discharge:
___ 03:28AM BLOOD WBC-10.0 RBC-3.15* Hgb-10.0* Hct-29.7* 
MCV-94 MCH-31.7 MCHC-33.5 RDW-17.2* Plt ___fter initial evaluation in the ED, Mr. ___ was admitted to 
the TICU for further evaluation and monitoring. On ___ he was 
stable and was transferred to the floor. The following details 
his hospital course by systems:

Neuro: He remained alert and oriented throughout his course 
without neurological defecits. Pain initially managed IV 
dilaudid. Once patient had adequate pain control and remained 
stable, he was transitioned off the dilaudid PCA to an oral 
regimen. 

Cardiovascular:
At the moment of admission patient's vital signs were stable, 
HCT was 42, no signs or symptoms of organs hypoperfusion. 
However over the course of 2 days his hematocrit dropped to 21. 
Patient received 2U pRBC's. Repeat CTA demonstrated splenic 
laceration with multiple foci of either active extravasation or 
small pseudoaneurysm at the lower pole similar compared to 
admission CTA. Increased in size of left renal and perirenal 
hematoma/known rupture of left renal cyst with hematoma layering 
within the cyst and increased  retroperitoneal hematoma along 
the lower pole of the left kidney. No evidence of active 
extravasation. 
Small amount of dense fluid layering within the pelvis. Stable 
appearance of a small intramuscular hematoma of the left 
obturator internus muscle. 
On ___ patient was tachycardic to 100s, SBP down to 100, 
diaphoresis and pre-syncope (no CP/SOB) with change in posture, 
relieved with supine. EKG with sinus, 96, NA/NI, no STEMI, TWI 
III. Provided 1L LR bolus and repeated basic labs and troponin. 
Hct down to 19, and again transfused 2 units pRBC's. Pt remained 
with no CP/SOB but intermitent tachycardia. Abdomen became 
increasingly firm and tender.
Therefore, he was taken to ___ for splenic pseudoaneurysm, and 
underwent gelfoam embolization of inferior splenic artery. 
Postprocedure, his hematocrit remained stable. He was noted to 
be slightly hypertensive on ___ and was started on metoprolol 
and then transitioned to lisinopril per his home regimen. He 
continued to remained persistently hypertensive with a sBP in 
the 160's and so his lisinopril dose was increased from 10 mg to 
20 mg daily.

Pulmonary:
Initially in the ED his O2 sat was 86% on RA. He was placed on 
supplemental O2 via NC, which was weaned with pain control and 
incentive spirometry and pulmonary toileting. His respiratory 
status remained uncompromised and his O2 sats remained ?90% on 
RA.

GI/GU:
Patient remained NPO for the first days of his hospitalization 
due to concern of continue intraabdominal bleeding. After 
Angiogram his hematocrit remained stable then diet was advanced 
to regular which he tolerated without abdominal pain, 
nausea/vomiting. He was also started on a bowel regimen given 
his decreased mobility and administration of narcotics. A foley 
catheter was placed on admission and his I&O's were closely 
monitored. On ___ his urine output remained adequate and the 
foley was removed, at which time he voided without difficulty.

MSK:
Ortho trauma was consulted for his pelvic fractures and 
determined them to be stable and nonoperative.
He was taken to the operating room on ___ for ORIF L 
olecranon, CRPP L distal radius  open reduction internal 
fixation distal radius fracture of percutaneous technique. 
Postoperatively he remained nonweightbearing on his LUE and in a 
splint. On ___ his olecranon incision was noted to be 
errythematous and he was started on a course of 10 days of 
keflex for this. 

Prophylax: IVC filter placed on ___. ___ held given concern 
for bleed until ___.
Physical therapy and occupational therapy were consulted to 
assess the patients mobility.

 
Medications on Admission:
Celexa 50 mg daily
Lisinopril 10 mg daily

 
Discharge Medications:
1. trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for sleep.  
2. citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
3. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
4. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
5. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
Constipation.  
6. simethicone 80 mg Tablet, Chewable Sig: ___ Tablet, 
Chewable PO QID (4 times a day) as needed for bloating/gas.  
7. ondansetron HCl 4 mg Tablet Sig: One (1) Tablet PO Q8H (every 
8 hours) as needed for nausea.  
8. lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
hold for SBP<110.  
9. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain.  
10. cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours) for 9 days.  
11. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours).  
12. heparin (porcine) 5,000 unit/mL Solution Sig: One (1) 
injection Injection TID (3 times a day).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
polytrauma s/p fall

Injuries:
1. Left renal retroperitoneal hematoma
2. Left splenic contusion with pseudoaneurysm
3. Left distal radius intra-articular fracture.
4. Left olecranon fracture, comminuted intra-articular.
5. Radial head fracture.
6. Left anterior acetabular wall/superior pubic ramus fracture 
w/minimal displacement
7. Left inferior pubic ramus fracture with minimal displacement
8. Minimally displaced left iliac wing fracture 
9. L2-L5 transverse process fractures

Secondary:
Acute blood loss anemia
Hypertension
 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital after falling from a 
scaffolding. You sustained multiple injuries including pelvic 
fractures, left arm and elbow fractures, fractures in the bony 
processes of your lumbar spine, and bleeding and bruising in 
your spleen and left kidney.

Your arm and elbow fractures were repaired in the operating room 
by the orthopedic surgeons. You should remain nonweightbearing 
on your left arm and follow up with orthopedics at the 
appointments listed below.

Your pelvic fractures are nonoperative and you may bear weight 
as tolerated on both of your legs.

You had a procedure in interventional radiology called gelfoam 
embolization to control the bleeding from your spleen. You have 
no further evidence of bleeding.

You had an IVC filter placed to prevent blood clots in your 
lungs because of your increased risk for this related to your 
injuries.

The fractures in the bony prominences of your spine do not 
require intervention. You are being given medication to control 
your pain.

Your blood pressure was elevated while you were in the hospital 
so your home dose of lisinopril was increased from 10 to 20 mg 
daily. Please follow up with your primary care provider after 
discharge from rehab to discuss future management of your 
medications and blood pressure.

 
Followup Instructions:
___